US05314903
2-(4-Chlorobenzylamino)-5-trifluoromethylaniline hydrochloride.
A solution of 2-(4-chlorobenzylamino)-5-trifluoromethylnitrobenzene (70 g, 0.21 mmol) in ethanol (500 ml) was hydrogenated at a pressure of 4 bar. When the reaction was finished the product was filtered through a plug of celite into a flask containing 25 ml conc. HCl. After evaporation the product was suspended in petrol ether and filtered off. Yield 57 g.

reactant | 2-(4-chlorobenzylamino)-5-trifluoromethylnitrobenzene | 0.21 mmol, 70 g | ClC1=CC=C(CNC2=C(C=C(C=C2)C(F)(F)F)[N+](=O)[O-])C=C1 | C14H10ClF3N2O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(4-Chlorobenzylamino)-5-trifluoromethylaniline hydrochloride | Cl.ClC1=CC=C(CNC2=C(N)C=C(C=C2)C(F)(F)F)C=C1 | InChI=1S/C14H12ClF3N2.ClH/c15-11-4-1-9(2-5-11)8-20-13-6-3-10(7-12(13)19)14(16,17)18;/h1-7,20H,8,19H2;1H
